US07897597B2
A solution of [4-amino-7-benzyloxy-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate (34.0 g, 0.0782 mol) in methanol (150 mL) was heated at reflux, and a solution of aqueous sodium hydroxide (50 mL of 1.7 M) was added, over a period of five minutes. A white precipitate formed, and the reaction was heated at reflux for one hour. The reaction mixture was allowed to cool to room temperature and stirred for about three hours. The precipitate was isolated by filtration, washed with deionized water and methanol, and then dried under vacuum at 50° C. to provide 24.9 g of the crude product. The crude product (6.0 g) was recrystallized from a mixture of 2-propanol:acetic acid 9:1 (470 mL); the hot solution was treated with activated charcoal and filtered through a layer of CELITE filter aid. The crystals were isolated by filtration, washed with a small volume of 2-propanol:acetic acid, and dried under vacuum at 50° C. The product was stirred with aqueous sodium hydroxide (200 mL of 0.15 M) for three hours, isolated by filtration, washed with deionized water, stirred with methanol (100 mL) for one hour, isolated by filtration, washed with methanol, and dried under vacuum at 60° C. Finally, the product (4.5 g) was recrystallized from DMF, isolated by filtration, and dried under vacuum to provide 1-[4-amino-7-benzyloxy-2-(hydroxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol as a white solid, mp 284.5-285.5° C.

reactant | [4-amino-7-benzyloxy-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl acetate | 0.0782 mol, 34.0 g | C(C)(=O)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)OCC2=CC=CC=C2)N)N1)CC(C)(C)O | C24H26N4O4
reactant | sodium hydroxide | 1.7 M, 50 mL | [OH-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | 1-[4-amino-7-benzyloxy-2-(hydroxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)CO)OCC2=CC=CC=C2 | C22H24N4O3
